US04732901
5-(1-Octynyl)furan-2-carboxaldehyde
To a solution of 1-octyne (5.5 g, 50 mmole) in dry THF (40 ml) at -30° C. was added n-butyl lithium in hexane (1.05 eq). After warming to 0° C. over 1 hr a solution of zinc chloride (6.95 g, 50 mmole) in THF (50 ml) was added and temperature raised to room temperature over 1/2 hr. Sequentially, solutions of 5-bromofuran-2-carboxaldehyde (8.75 g, 50 mmole) in THF (20 ml) and tetrakis triphenylphosphinepalladium (0) (5.7 g, 10%) in THF (50 ml) were added. The mixture was heated to reflux for 2 hr after which it was cooled and added to dilute hydrochloric acid (50 ml). After extracting into diethyl ether (3×100 ml), drying the ethereal solution (MgSO4) and removing the solvent under reduced pressure, the resulting oil was chromatographed on silica (DCM: Hexane 1:2) to give the title compound 6.83 g (67 %) as an oil. νmax (film) 3150, 3125, 2225, 1680, 890, 770; δ(CDCl3)0.90(3H, distorted t), 1.42(8H, complex m), 2.45(2H, t, J=6.5 Hz), 6.60(1H, d, J=3.0 Hz), 9.65(1H, s).

reactant | 1-octyne | 50 mmole, 5.5 g | C#CCCCCCC | C8H14
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 1.05 eq | CCCCCC | C6H14
reactant | 5-bromofuran-2-carboxaldehyde | 50 mmole, 8.75 g | BrC1=CC=C(O1)C=O | C5H3BrO2
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | tetrakis | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | zinc chloride | 50 mmole, 6.95 g | [Cl-].[Zn+2].[Cl-]
product | 5-(1-Octynyl)furan-2-carboxaldehyde | 6.83 g, 67 % | C(#CCCCCCC)C1=CC=C(O1)C=O | C13H16O2
